US07777047B2
2-({[2-(benzylthio)-3,3-dimethoxypropyl]amino}carbonyl)-7-nitro-1H-indol-5-yl pivalate
To a solution of N-[2-(benzylthio)-3,3-dimethoxypropyl]-5-hydroxy-7-nitro-1H-indole-2-carboxamide (1.0 g) in tetrahydrofuran (10 mL) were added dropwise triethylamine (0.38 mL) and pivaloyl chloride (0.30 mL) under ice-cooling. The mixture was stirred overnight at room temperature, diluted with ethyl acetate, washed with water, 1N hydrochloric acid and saturated brine, dried (MgSO4), and concentrated. The residue was purified by basic silica gel column chromatography (hexane:ethyl acetate=1:1) to give the title compound (1.18 g, yield 99%) as a pale-yellow amorphous powder.

reactant | N-[2-(benzylthio)-3,3-dimethoxypropyl]-5-hydroxy-7-nitro-1H-indole-2-carboxamide | 1.0 g | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=C(C=C2C1)O)[N+](=O)[O-])C(OC)OC | C21H23N3O6S
reactant | triethylamine | 0.38 mL | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.30 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-({[2-(benzylthio)-3,3-dimethoxypropyl]amino}carbonyl)-7-nitro-1H-indol-5-yl pivalate | 1.18 g, yield 99% | C(C(C)(C)C)(=O)OC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C(=O)NCC(C(OC)OC)SCC1=CC=CC=C1 | C26H31N3O7S
